US07608716B2
To a suspension of a mixture containing 1-(3-cyanophenyl)-4-hydroxy-1,8-naphthyridin-2 (1H)-one (958 mg, 3.64 mmol) in DMF (16 ml) was added sodium hydride (about 60%, 350 mg, 8.74 mmol, 2.4 eq.), and the mixture was stirred until the production of hydrogen was completed. Next, after phenylacetyl chloride (563 mg, 3.64 mmol, 1.0 eq.) was added, the mixture was stirred at room temperature, admixed with water, acidified with hydrochloric acid, filtered off to give precipitates which were washed with water. The resultant residue was purified by flash column chromatography to afford 1-(3-cyanophenyl)-4-hydroxy-3-(1-oxo-2-phenylethyl)-1,8-naphthyridin-2 (1H)-one (341 mg, 25%).

reactant | 1-(3-cyanophenyl)-4-hydroxy-1,8-naphthyridin-2 (1H)-one | 3.64 mmol, 958 mg | C(#N)C=1C=C(C=CC1)N1C(C=C(C2=CC=CN=C12)O)=O | C15H9N3O2
reactant | sodium hydride | 8.74 mmol, 350 mg, 2.4 eq. | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | phenylacetyl chloride | 3.64 mmol, 563 mg, 1.0 eq. | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(3-cyanophenyl)-4-hydroxy-3-(1-oxo-2-phenylethyl)-1,8-naphthyridin-2 (1H)-one | 341 mg, 25% | C(#N)C=1C=C(C=CC1)N1C(C(=C(C2=CC=CN=C12)O)C(CC1=CC=CC=C1)=O)=O | C23H15N3O3
